US05066677
A solution of methyl N-dimethylaminoethyl-N-methyloxamate hydrochloride (500 mg) in water (20 ml) was cooled on an ice bath under stirring, and to the solution was added dropwise a solution of sodium hydroxide (356 mg) in water (10 ml). After the completion of the addition, the reaction solution was further stirred at room temperature for 2 hours and then adjusted the pH thereof to 4 with the addition of 1N aqueous HCl. After the removal of the solvent by distillation under a reduced pressure, methanol (20 ml) was added to the distillation residue and solid matters which remain undissolved were removed by filtration. The filtrate was concentrated and then purified by chromatography on a resin "Sephadex LH-20" using a 1:1 (by volume) mixture of methylene chloride-methanol as eluent, affording N-dimethylaminoethyl-N-methyloxamic acid (250 mg) as a white solid.

reactant | methyl N-dimethylaminoethyl-N-methyloxamate hydrochloride | 500 mg | Cl.CN(C)CCN(C(C(=O)OC)=O)C
reactant | sodium hydroxide | 356 mg | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | water | 20 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | N-dimethylaminoethyl-N-methyloxamic acid | 250 mg | CN(C)CCN(C(C(=O)O)=O)C | C7H14N2O3
